US07465731B2
To a mixture of ethyl 5-chloro-6-(2,3-dihydro-1H-inden-2-ylamino)nicotinate (395 mg) and ammonium formate (472 mg) in ethanol (10 mL) was added 10% palladium on carbon (40 mg), and the mixture was stirred at 100° C. for 10 hours. The catalyst in the reaction mixture was removed by filtration. The solvent was evaporated in vacuo. The residual solid was collected with hexane and ethyl acetate (2/1 v/v) to give ethyl 6-(2,3-dihydro-1H-inden-2-ylamino)nicotinate (104 mg). The mother liquid was concentrated in vacuo, and the residue was purified by preparative thin layer column chromatography (hexane/ethyl acetate=2/1) to give ethyl 6-(2,3-dihydro-1H-inden-2-ylamino)nicotinate (209 mg) as a pale yellow solid.

reactant | ethyl 5-chloro-6-(2,3-dihydro-1H-inden-2-ylamino)nicotinate | 395 mg | ClC=1C(=NC=C(C(=O)OCC)C1)NC1CC2=CC=CC=C2C1 | C17H17ClN2O2
reactant | ammonium formate | 472 mg | C(=O)[O-].[NH4+]
solvent | ethanol | 10 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 40 mg | [Pd] | Pd
product | ethyl 6-(2,3-dihydro-1H-inden-2-ylamino)nicotinate | 104 mg | C1C(CC2=CC=CC=C12)NC1=NC=C(C(=O)OCC)C=C1 | C17H18N2O2
